US04652297
N-trifluoroacetyl-N-[bis(pyrrolidino)phosphinothioylmethyl]glycine, ethyl ester (2.7 g, 0.00649 mole), was dissolved in ethanol. The solution was stirred and sodium tetrahydrido boron (245 mg, 6.49 mm) was added portionwise over a ten minute period. The solution was stirred for an additional 20 minutes. The solvent was removed by evaporation under vacuum and the residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was then chromatographed on silica gel employing ether as an eluant to yield N-[bis(pyrrolidino)phosphinothioylmethyl]glycine, ethyl ester (550 mg), ND25 =1.530 and having the following analysis: Calculated: C, 48.88; H, 8.21; N, 13.16. Found: C, 48.65; H, 8.12; N, 13.04.

reactant | N-trifluoroacetyl-N-[bis(pyrrolidino)phosphinothioylmethyl]glycine, ethyl ester | 0.00649 mole, 2.7 g | FC(C(=O)N(CC(=O)OCC)CP(=S)(N1CCCC1)N1CCCC1)(F)F | C15H25F3N3O3PS
solvent | ethanol | C(C)O | C2H6O
product | N-[bis(pyrrolidino)phosphinothioylmethyl]glycine, ethyl ester | 550 mg | N1(CCCC1)P(=S)(N1CCCC1)CNCC(=O)OCC | C13H26N3O2PS
